US07737135B2
a) 4-bromo-N,N-diethyl-2-fluoro-benzamide
The sub-title compound was prepared by the method of example 18 step a) using 4-bromo-2-fluorobenzoic acid and N-ethyl-ethanamine.

reactant | 4-bromo-2-fluorobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | N-ethyl-ethanamine | C(C)NCC | C4H11N
product | 4-bromo-N,N-diethyl-2-fluoro-benzamide | BrC1=CC(=C(C(=O)N(CC)CC)C=C1)F | C11H13BrFNO
